US06548694B2
The (RS)-(4-cyano-phenylamino)-(3,5-diethoxy-2-fluoro-phenyl)-acetic acid ethyl ester (1.02 g) described in example 2.2 was dissolved in THF. 1 M LiOH (3.96 ml) was added and the mixture was stirred for 2 h at room temperature. 1 M HCl (4 ml) was added. The product was isolated by extraction with ethyl acetate to give 970 mg of (RS)-(4-cyano-phenylamino)-(3,5-diethoxy-2-fluoro-phenyl)-acetic acid which was used for the next step without further purification. MS: 357 ([M−H]−)

reactant | (RS)-(4-cyano-phenylamino)-(3,5-diethoxy-2-fluoro-phenyl)-acetic acid ethyl ester | 1.02 g | C(C)OC(C(C1=C(C(=CC(=C1)OCC)OCC)F)NC1=CC=C(C=C1)C#N)=O | C21H23FN2O4
reactant | LiOH | 1 M, 3.96 ml | [Li+].[OH-]
reactant | HCl | 1 M, 4 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | (RS)-(4-cyano-phenylamino)-(3,5-diethoxy-2-fluoro-phenyl)-acetic acid | 970 mg | C(#N)C1=CC=C(C=C1)NC(C(=O)O)C1=C(C(=CC(=C1)OCC)OCC)F | C19H19FN2O4
